US05246956
(+-)-(E)-Ethyl-5-[[2-(1H-imidazol-1-yl)-1,2,3,4-tetrahydro-1-naphtylidene]aminoxy]pentanoate (Compound 34)
(+-)-(E)-2-(1H-imidazol-1-yl)-1,2,3,4-tetrahydronaphtalen-1-one oxime (500 mg; 2.2 mmoles) dissolved in dry DMF (27 ml) is added, under dry nitrogen atmosphere, to a pentane-washed sodium hydride suspension (160 mg NaH 55%; 3.6 mmoles), in dry DMF (10 ml). The resulting reaction mixture is stirred at r.t. for 2 hours. Then ethyl-5-bromopentanoate (0.530 ml; 3.3 mmoles) is added at r.t. and the reaction mixture is stirred at r.t. for 3 hrs., the solvent evaporated in vacuo, and the residue carefully taken up with ice-cooled water and extracted with ethyl acetate. The collected organic phases are dried over Na2SO4 and evaporated to give an oily crude material which is chromatographed over silica gel. By eluting with CH2Cl2 /MeOH (95:5), the pure title compound is obtained as a slight yellow oil (250 mg). 1H-NMR (200MH2, CDCl3) ppm.

reactant | (+-)-(E)-2-(1H-imidazol-1-yl)-1,2,3,4-tetrahydronaphtalen-1-one oxime | 2.2 mmoles, 500 mg | N1(C=NC=C1)C1/C(/C2=CC=CC=C2CC1)=N/O | C13H13N3O
reactant | pentane | CCCCC | C5H12
reactant | sodium hydride | 3.6 mmoles, 160 mg | [H-].[Na+]
reactant | ethyl-5-bromopentanoate | 3.3 mmoles, 0.530 ml | C(C)OC(CCCCBr)=O | C7H13BrO2
solvent | DMF | 27 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (+-)-(E)-Ethyl-5-[[2-(1H-imidazol-1-yl)-1,2,3,4-tetrahydro-1-naphtylidene]aminoxy]pentanoate | C(C)OC(CCCCO/N=C\1/C(CCC2=CC=CC=C12)N1C=NC=C1)=O | C20H25N3O3
